US04124719
(3aRS,4SR,7aRS)-4-(3,4-dichlorophenyl)hexahydro-4-indolinol [process c)]
24.9 g (3aRS,4SR,7aRS)-4-(3,4-dichlorophenyl)hexahydro-1-indoline carboxylic acid ethyl ester in 240 ml methanol are treated with 240 ml 10N sodium hydroxide and refluxed for 15 hours. The cooled resulting mixture is repeatedly extracted with methylene chloride. The organic phase is extracted with 2N tartaric acid. The acidic phase is made alkaline and extracted with methylene chloride. The methylene chloride phases are dried over magnesium sulphate, and evaporated to give the title compound, in crude free base form, as an oil which is converted, by the addition of an equivalent amount of maleic acid, into the hydrogen maleate. M.Pt. 190°-191°.

reactant | (3aRS,4SR,7aRS)-4-(3,4-dichlorophenyl)hexahydro-1-indoline carboxylic acid ethyl ester | 24.9 g | C(C)OC(=O)N1CCC2C(CCCC12)C1=CC(=C(C=C1)Cl)Cl | C17H21Cl2NO2
reactant | sodium hydroxide | 10N, 240 ml | [OH-].[Na+]
solvent | methanol | 240 ml | CO | CH4O
product | (3aRS,4SR,7aRS)-4-(3,4-dichlorophenyl)hexahydro-4-indolinol | ClC=1C=C(C=CC1Cl)C1(C2CCNC2CCC1)O | C14H17Cl2NO
